US08445530B2
2-[2-Fluoro-4-methoxy-3-(2-m-tolyl-ethoxy)-benzoylamino]-indane-2-carboxylic acid
2-Fluoro-3-hydroxy-4-methoxybenzoic acid methyl ester was etherified with 2-m-tolyl-ethanol in analogy to step 1 of example 1, the obtained ester hydrolyzed in analogy to example 2, the obtained carboxylic acid reacted with 2-amino-indane-2-carboxylic acid methyl ester hydrochloride in analogy to step 3 of example 1, and the methyl ester hydrolyzed in analogy to example 2.

reactant | 2-Fluoro-3-hydroxy-4-methoxybenzoic acid methyl ester | COC(C1=C(C(=C(C=C1)OC)O)F)=O | C9H9FO4
reactant | 2-m-tolyl-ethanol | C1(=CC(=CC=C1)CCO)C | C9H12O
reactant | 2-amino-indane-2-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1(CC2=CC=CC=C2C1)N
product | 2-[2-Fluoro-4-methoxy-3-(2-m-tolyl-ethoxy)-benzoylamino]-indane-2-carboxylic acid | FC1=C(C(=O)NC2(CC3=CC=CC=C3C2)C(=O)O)C=CC(=C1OCCC=1C=C(C=CC1)C)OC | C27H26FNO5
